* C:\Users\enric\workspace\Progetto linguaggi e compilatori\Draft1.asc
R1 VDD N004 20k
R2 N004 0 20k
RC VDD N001 10k
RE N005 0 1k
Q1 N001 N004 N005 0 NPN
V1 VDD 0 15
C1 N004 N003 10m
C3 VDD 0 0.1µ
C4 VDD 0 0.01µ
C2 VDD 0 1µ
V2 N003 0 AC 1mV 0
C5 N002 N001 100µ
R3 N002 0 10k
.model NPN NPN
.model PNP PNP
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.bjt
.ac dec 1000 10 1000
.backanno
.end
